US05041455
A. 3-(4-(2-ethoxyethoxy)-1,2,5-thiadiazol-3-yl)pyridine
To a solution of 2-ethoxyethanol (1.08 g, 12 mmol) and sodium hydride (410 mg, 12 mmol) in dry tetrahydrofuran was added a solution of 3-(4-chloro-1,2,5-thiadiazol-3-yl) pyridine (790 mg, 4 mmol) in dry tetrahydrofuran. The mixture was stirred at room temperature for 2 h. Water was added and the mixture was extracted with ether. The ether phase was dried and evaporated to give the title compound.

reactant | 2-ethoxyethanol | 12 mmol, 1.08 g | C(C)OCCO | C4H10O2
reactant | sodium hydride | 12 mmol, 410 mg | [H-].[Na+]
reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl) pyridine | 4 mmol, 790 mg | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(4-(2-ethoxyethoxy)-1,2,5-thiadiazol-3-yl)pyridine | C(C)OCCOC=1C(=NSN1)C=1C=NC=CC1 | C11H13N3O2S
